US07332508B2
1-Isopropyl-4-[5-(4-butylphenyl)[1,2,4]oxadiazol-3-yl]piperidine, Hydrochloride
The title compound was prepared by a similar procedure to that described in Example 56, starting from 1-isopropyl-N-hydroxypiperidine-4-carboxamidine and 4-butylbenzoyl chloride.

reactant | 1-isopropyl-N-hydroxypiperidine-4-carboxamidine | C(C)(C)N1CCC(CC1)C(=N)NO | C9H19N3O
reactant | 4-butylbenzoyl chloride | C(CCC)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
product | 1-Isopropyl-4-[5-(4-butylphenyl)[1,2,4]oxadiazol-3-yl]piperidine, Hydrochloride | Cl.C(C)(C)N1CCC(CC1)C1=NOC(=N1)C1=CC=C(C=C1)CCCC | InChI=1S/C20H29N3O.ClH/c1-4-5-6-16-7-9-18(10-8-16)20-21-19(22-24-20)17-11-13-23(14-12-17)15(2)3;/h7-10,15,17H,4-6,11-14H2,1-3H3;1H
